US07645789B2
To trifluoroacetic acid (20 mL) was added NaBH4 (0.70 g, 130 mmol) in portions at 0° C. under N2 atmosphere. After stirring for 5 min, a solution of 1-(4-oxo-chroman-6-yl)-cyclopropanecarboxylic methyl ester (1.6 g, 6.5 mmol) was added at 15° C. The reaction mixture was stirred for 1 h at room temperature before being slowly quenched with water. The resulting mixture was extracted with EtOAc (50 mL×3). The combined organic extracts dried over anhydrous Na2SO4 and evaporated under vacuum to give 1-chroman-6-yl-cyclopropanecarboxylic methyl ester (1.4 g, 92%), which was used directly in the next step. 1H NMR (300 MHz, CDCl3) δ 7.07-7.00 (m, 2H), 6.73 (d, J=8.4 Hz, 1H), 4.17 (t, J=5.1 Hz, 2H), 3.62 (s, 3H), 2.79-2.75 (m, 2H), 2.05-1.96 (m, 2H), 1.57-1.54 (m, 2H), 1.16-1.13 (m, 2H).

reactant | NaBH4 | 130 mmol, 0.70 g | [BH4-].[Na+]
reactant | 1-(4-oxo-chroman-6-yl)-cyclopropanecarboxylic methyl ester | 6.5 mmol, 1.6 g | COC(=O)C1(CC1)C=1C=C2C(CCOC2=CC1)=O | C14H14O4
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-chroman-6-yl-cyclopropanecarboxylic methyl ester | 1.4 g, 92% | COC(=O)C1(CC1)C=1C=C2CCCOC2=CC1 | C14H16O3
